US04801737
The same reactor as used in the second half of Example 1 was charged with 30 parts of the 2-methyl-6-isobutyryloxynaphthalene, 80 parts of acetic acid, 20 parts of acetic anhydride, 1.87 parts (Co=4425 wt. ppm), of cobalt acetate tetrahydrate, and 1.08 parts (Br=8813 wt. ppm) of ammonium bromide, and pressurized to 10 kg/cm2 -G. The mixture was heated to 150° C., and air was introduced into the reactor at a rate of 10 Nl/hr. The reaction was terminated when the absorption of oxygen ceased. The reaction time was 2.4 hours. The reaction mixture was cooled, and the contents were withdrawn and analyzed. The conversion of 2-methyl-6-isobutyryloxynaphthalene was 100 mole%, and 65.0 mole% (selectivity 65.0 mole%) of 6-isobutyryloxy-2-naphthoic acid. At this time, 21.0 mole% of 6-isobutyryloxy-2-naphthaldehyde formed.

reactant | 2-methyl-6-isobutyryloxynaphthalene | CC1=CC2=CC=C(C=C2C=C1)OC(C(C)C)=O | C15H16O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium bromide | [Br-].[NH4+]
catalyst | cobalt acetate tetrahydrate | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-isobutyryloxy-2-naphthaldehyde | C(C(C)C)(=O)OC=1C=C2C=CC(=CC2=CC1)C=O | C15H14O3
